US07205306B2
5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-ethylpropyl)-6-methyl-2(1H)-pyrazinone
Part C: A solution 3,5-dichloro-1-(1-ethylpropyl)-6-methyl-2(1H)-pyrazinone from Part B (80 mg, 0.321 mmol) and 7-chloro-5-methoxyindoline (61.9 mg, 0.337 mmol) in THF (1.6 mL) was cooled to 0° C. and was treated with sodium hexamethyldisilazide (353 μL, 0.353 mmol, 1 M in THF). The reaction mixture was allowed to warm up to room temperature and was stirred overnight. The mixture was transferred to a separatory funnel containing saturated NaHCO3 and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (10% EtOAc in hexanes→40% EtOAc in hexanes) to provide the target compound (22 mg, 17% yield) as a brown oil: 1H NMR (CDCl3) δ 6.72 (s, 2H), 4.27 (t, J=7.88 Hz, 2H), 4.00–3.95 (m, 1H), 3.77 (s, 3H), 3.09 (t, J=7.8 Hz, 2H), 2.48–2.38 (m, 2H), 2.42 (s, 3H), 1.95–1.81 (m, 2H), 0.87 (t, J=7.5 Hz, 6H); HRMS (ESI) m/z 396.1259 [(M+H)+, calcd for C19H24N3O2Cl2 396.1246].

reactant | 3,5-dichloro-1-(1-ethylpropyl)-6-methyl-2(1H)-pyrazinone | ClC=1C(N(C(=C(N1)Cl)C)C(CC)CC)=O | C10H14Cl2N2O
reactant | 7-chloro-5-methoxyindoline | 0.337 mmol, 61.9 mg | ClC=1C=C(C=C2CCNC12)OC | C9H10ClNO
reactant | sodium hexamethyldisilazide | 0.353 mmol, 1 M, 353 μL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
product | 5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-ethylpropyl)-6-methyl-2(1H)-pyrazinone | 22 mg, 17% yield | ClC=1N=C(C(N(C1C)C(CC)CC)=O)N1CCC2=CC(=CC(=C12)Cl)OC | C19H23Cl2N3O2
